US20010027196A1
Following the method of Thorand and Krause (J. Org Chem. 1998, 63, 8551), to a stirred solution of 500 mg (2.17 mmol) 2-amino-4-chloro-6-phenyl-pyrimidine-5-carbonitrile in 8.5 ml dry degassed THF under argon at room temperature were added 300 mg (0.43 mmol) bis(triphenylphosphine)palladium(II) chloride, 14 mg (0.05 mmol) triphenylphosphine, 0.36 ml (3.28 mmol) phenylacetylene and 0.45 ml (3.23 mmol) triethylamine. Stirring was continued for 30 minutes then 4.0 mg (0.02 mmol) copper(I) iodide was added and the reaction mixture stirred for an additional 16 hours at room temperature. The reaction mixture was then concentrated in vacuo. Chromatography (1/2 ethyl acetate/hexane) afforded 350 mg (55%) 2-amino-4-phenyl-6-phenylethynyl-pyrimidine-5-carbonitrile as a light yellow crystalline solid. EI-MS m/e (%): 296 (M+, 100), 270 (80).

reactant | 2-amino-4-chloro-6-phenyl-pyrimidine-5-carbonitrile | 2.17 mmol, 500 mg | NC1=NC(=C(C(=N1)Cl)C#N)C1=CC=CC=C1 | C11H7ClN4
reactant | phenylacetylene | 3.28 mmol, 0.36 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | triethylamine | 3.23 mmol, 0.45 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.43 mmol, 300 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.02 mmol, 4.0 mg | [Cu]I
catalyst | triphenylphosphine | 0.05 mmol, 14 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 2-amino-4-phenyl-6-phenylethynyl-pyrimidine-5-carbonitrile | 350 mg, 55% | NC1=NC(=C(C(=N1)C1=CC=CC=C1)C#N)C#CC1=CC=CC=C1 | C19H12N4
